US06002008
Prepared from 5.00 g of 4-chloro-6-nitroquinoline-3-carbonitrile and 2.86 g of 3-fluoroaniline in the same manner as Example 377. The crude product was dissolved in a large volume of EtOAc, treated with Darco and filtered through Celite. Solvent removal and drying in vacuo (50° C.) gave 5.77 g of 4-(3-fluorophenylamino)-6-nitroquinoline-3-carbonitrile as a yellow-orange solid: mass spectrum (electrospray, m/e): M+H 309.2.

reactant | 4-chloro-6-nitroquinoline-3-carbonitrile | 5.00 g | ClC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C10H4ClN3O2
reactant | 3-fluoroaniline | 2.86 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | Darco | C | CH4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(3-fluorophenylamino)-6-nitroquinoline-3-carbonitrile | 5.77 g | FC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H9FN4O2
